US08648087B2
Step D: Preparation of [1,2,4]triazolo[1,5-a]pyridin-7-ol:
A 250 mL, single-neck, round-bottomed flask was charged with 7-(benzyloxy)-[1,2,4]triazolo[1,5-a]pyridine (3.20 g, 14.2 mmol), Pd/C (0.756 g, 0.710 mmol), and THF (125 mL). The reaction was stirred under an atmosphere of hydrogen for 16 hours, then filtered (GF paper) and concentrated to a white solid. The solids were titrated with EtOAc and collected by filtration to provide the desired product.

reactant | 7-(benzyloxy)-[1,2,4]triazolo[1,5-a]pyridine | 14.2 mmol, 3.20 g | C(C1=CC=CC=C1)OC1=CC=2N(C=C1)N=CN2 | C13H11N3O
catalyst | Pd/C | 0.710 mmol, 0.756 g | [Pd] | Pd
solvent | THF | 125 mL | C1CCOC1 | C4H8O
product | [1,2,4]triazolo[1,5-a]pyridin-7-ol | N=1C=NN2C1C=C(C=C2)O | C6H5N3O
